US05264559
Production of 3-(methyl ONN azoxy)-2,2-propylene dioxy-butane [Compound (IV):R3 =H, R4 =-CH2CH2CH2 -]: (a) In 700 ml of water were dissolved 40 g of L-alanine and 127 g of sodium carbonate. Then 64 ml of ethyl chloroformate was added dropwise to the mixture under ice-cooling and its stirring was conducted at room temperature for 30 minutes. A 35% hydrochloric acid was added to the reaction liquid to make this acidic and the reaction liquid was adsorbed on the column (6.5×60 cm) of diaion HP-20. After washing with water this was eluted with 70% methanol. The eluate was condensed under vacuum thereby to obtain 69 g (yield of 96%) of N-ethoxycarbonyl alanine as an oily substance.

reactant | L-alanine | 40 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | sodium carbonate | 127 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl chloroformate | 64 ml | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 700 ml | O | H2O
product | N-ethoxycarbonyl alanine | 69 g, yield of 96% | C(C)OC(=O)N[C@@H](C)C(=O)O | C6H11NO4
